US05821253
[2-(4-Methoxyphenyl)-3,4-dihydro-6-methoxylnaphth-1-yl][4-(1-piperidinyl-2-ethoxy)phenyl]carbinol
4.45 g (0.009 mol) of [2-(4-methoxyphenyl)-3,4-dihydro-6-methoxynaphth-1-yl][4-(1-piperidinyl-2-ethoxy) phenyl] methanone was dissolved in 100 mL of THF and 1 g (0.026 mol) of LiAlH4 was carefully added. The reaction mixture was stirred at room temperature and under N2 for eighteen hours. The reaction mixture was evaporated to dryness and 100 mL of water was carefully added. The reaction mixture was extracted twice with 100 mL portions of EtOAc. The combind EtOAc extracts were dried by filteration through anhydrous Na2SO4. The EtOAc extract was evaporated to dryness in vacuo. This yielded 3.38 g of the title compound as a white, amorphous powder.

reactant | [2-(4-methoxyphenyl)-3,4-dihydro-6-methoxynaphth-1-yl][4-(1-piperidinyl-2-ethoxy) phenyl] methanone | 0.009 mol, 4.45 g | COC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2CC1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C32H35NO4
reactant | LiAlH4 | 0.026 mol, 1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [2-(4-Methoxyphenyl)-3,4-dihydro-6-methoxylnaphth-1-yl][4-(1-piperidinyl-2-ethoxy)phenyl]carbinol | COC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2CC1)OC)C(O)C1=CC=C(C=C1)OCCN1CCCCC1 | C32H37NO4
